US04643762
1-Methyl-2-phenyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-4-pyrroline
In this example, sodium ethoxide was prepared by mixing 3.0 g of metallic sodium with 100 ml of absolute ethanol. After the evolution of hydrogen stopped, a mixture containing 16.0 g of (3-trifluoromethylphenyl)-acetonitrile and 17.1 g of methyl methylamino-phenylacetate was added dropwise to the sodium ethoxide-ethanol mixture. The resulting mixture was then refluxed overnight (about 16 hours) and then cooled to room temperature. The mixture was then added to 300 ml of water and extracted with diethyl ether. The ethyl ether extract was filtered to remove precipitate. The filtrate was concentrated by evaporation affording a solid. This solid was then triturated in ethyl ether. The ethyl ether was then removed from the solid. The solid was washed several times with ethyl ether and then dried overnight affording 6.2 g of the title compound.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 3.0 g | [Na] | Na
reactant | hydrogen | [H][H] | H2
reactant | (3-trifluoromethylphenyl)-acetonitrile | 16.0 g | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
reactant | methyl methylamino-phenylacetate | 17.1 g | CNC(C(=O)OC)C1=CC=CC=C1 | C10H13NO2
reactant | sodium ethoxide ethanol | [O-]CC.[Na+].C(C)O
reactant | water | 300 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Methyl-2-phenyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-4-pyrroline | 6.2 g | CN1C(C(C(=C1N)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C18H15F3N2O
